US07612114B2
5-Methoxy-2-(6-methoxy-3,3-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine
Synthesized from 3-bromo-7-methoxy-2,2-dimethyl-1,2-dihydronaphthalene and 4-bromo-3-nitroanisole according to an analogous synthetic method to Preparation Example 107 described below, 7-methoxy-3-(4-methoxy-2-nitrophenyl)-2,2-dimethyl-1,2-dihydronaphthalene (1.9 g) was used according to an analogous synthetic method to Example 30 to provide the title compound (1.5 g).

reactant | 3-bromo-7-methoxy-2,2-dimethyl-1,2-dihydronaphthalene | BrC=1C(CC2=CC(=CC=C2C1)OC)(C)C | C13H15BrO
reactant | 4-bromo-3-nitroanisole | BrC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | 7-methoxy-3-(4-methoxy-2-nitrophenyl)-2,2-dimethyl-1,2-dihydronaphthalene | 1.9 g | COC1=CC=C2C=C(C(CC2=C1)(C)C)C1=C(C=C(C=C1)OC)[N+](=O)[O-] | C20H21NO4
product | 5-Methoxy-2-(6-methoxy-3,3-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 1.5 g | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1(C)C)OC | C20H25NO2
